US03992431
Preparation of 1-adamantylcarbonylmethyldimethyl-tetradecylammonium bromide.
A mixture of 1.3g. (0.005 mole) 1-adamantyl bromomethyl ketone and 1.23g (0.005 mole) dimethyltetradecylamine was solubilized by the addition of 30cc acetone. The next day the solidified mixture was washed with ether and recrystallized from ethyl acetate to yield 2.1g white crystals, m.p. 134°-135.5°.

reactant | 1-adamantyl bromomethyl ketone | 0.005 mole | BrCC(=O)C12CC3CC(CC(C1)C3)C2 | C12H17BrO
reactant | dimethyltetradecylamine | 0.005 mole, 1.23g | CN(CCCCCCCCCCCCCC)C | C16H35N
solvent | acetone | 30cc | CC(=O)C | C3H6O
product | 1-adamantylcarbonylmethyldimethyl-tetradecylammonium bromide | 2.1g | [Br-].C12(CC3CC(CC(C1)C3)C2)C(=O)C[N+](CCCCCCCCCCCCCC)(C)C | InChI=1S/C28H52NO.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-29(2,3)23-27(30)28-20-24-17-25(21-28)19-26(18-24)22-28;/h24-26H,4-23H2,1-3H3;1H/q+1;/p-1
